US06166006
In 1,2-dichloroethane (75 ml) were suspended p-nitrobenzaldehyde (5 g) and 2-amino-1,3-propanediol (3.0 g), and to the mixture was added, under ice-cooling, triacetoxy sodium boron hydride (9.8 g). Under nitrogen atmosphere, the mixture was stirred at room temperature for 3.5 hours. To the mixture were added, under ice-cooling, 37% formalin (3 ml) and triacetoxy sodium boron hydride (9.8 g), and the mixture was stirred, under nitrogen atmosphere, at room temperature overnight. To the mixture was added water, and the mixture was concentrated. The residue was neutralized with sodium hydroxide solution, saturated with sodium hydrochloride and extracted with ethyl acetate. The organic layer was dried with anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified with silica gel column (ethyl acetate) to give 2-(N-methyl-N-(4-nitro-benzyl)amino)-1,3-propanediol (3.0 g) as pale yellow crystals.

reactant | p-nitrobenzaldehyde | 5 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 2-amino-1,3-propanediol | 3.0 g | NC(CO)CO | C3H9NO2
reactant | formalin | 3 ml | C=O | CH2O
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 75 ml | ClCCCl | C2H4Cl2
product | 2-(N-methyl-N-(4-nitro-benzyl)amino)-1,3-propanediol | 3.0 g | CN(CC1=CC=C(C=C1)[N+](=O)[O-])C(CO)CO | C11H16N2O4
